US08309580B2
A solution of 5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridine-2-carboxylic acid (694 mg), ethyl 3-(methylamino)propanoate (223 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (326 mg), hydroxybenzotriazole monohydrate (260 mg) and triethylamine (237 μL) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (5% ethyl acetate/hexane to 50% ethyl acetate/hexane) to give ethyl 3-[{[5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridin-2-yl]carbonyl}(methyl)amino]propanoate (263 mg) as an amorphous compound. Ethyl 3-[{[5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridin-2-yl]carbonyl}(methyl)amino]propanoate was dissolved in ethanol (2 mL), tetrahydrofuran (2 mL) and 1N lithium hydroxide (1.0 mL) were added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (246 mg, 30%).

reactant | 5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridine-2-carboxylic acid | 694 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)F)C)NC=1C=CC(=NC1)C(=O)O | C24H25FN2O3
reactant | ethyl 3-(methylamino)propanoate | 223 mg | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 326 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 260 mg | O.OC1=CC=CC=2NN=NC21
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 237 μL | C(C)N(CC)CC | C6H15N
product | ethyl 3-[{[5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridin-2-yl]carbonyl}(methyl)amino]propanoate | 263 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)F)C)NC=1C=CC(=NC1)C(=O)N(CCC(=O)OCC)C | C30H36FN3O4
